US07754712B2
12-Methyl-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene.
12-Methyl-5-(4-methoxybenzyl)-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene (0.5 g, 1.7 mmol) in trifluoroacetic acid (TFA) (6 mL) was heated at 65° C. overnight. The solvent was removed and the residue was purified by prep HPLC to afford the product (200 mg, 1.1 mmol, 65% yield) as yellow oil.

reactant | 12-Methyl-5-(4-methoxybenzyl)-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | 1.7 mmol, 0.5 g | CN1C2C=3N=NN(C3CC1CCC2)CC2=CC=C(C=C2)OC | C17H22N4O
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 12-Methyl-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | 1.1 mmol, 200 mg, 65% yield | CN1C2C=3N=NNC3CC1CCC2 | C9H14N4
